US04431653
2-(4-pyridyl)ethanol (70. g, 0.57 M) and platinum oxide (2 g) in water (600 ml) and concentrated aqueous HCl (81 ml) was hydrogenated at the pressure of 1000 psig hydrogen to give 4-(2-hydroxyethyl)piperidine hydrochloride in quantitative yield. Treatment of 4-(2-hydroxyethyl)piperidine hydrochloride (20 g 0.12 M) with phosphorus tribromide (7 ml) at 100° C. for 11/2 hr. followed by trituration with diethyl ether (2×50 ml) and filtration gave 4(2-bromoethyl)piperidine hydrogen bromide (20.76 g, 77% yield). The solution of the 4-(2-bromoethyl)piperidine hydrogen bromide (23 g.0.085 M) in tetrahydrofuran (170 ml) and dimethylformamide (170 ml) was prepared. To this solution was added formic acetic anhydride (12.7 ml) at 0° C., followed by the addition of triethylamine (25 ml) with vigorously stirring. The reaction mixture was stirred overnight. After the reaction, it was filtered and the filtrate was stripped in vacuo to dryness and water (100 ml) was then added to the residue and the mixture was extracted with diethyl ether (3×100 ml). Removal of the solvent and purification on silica gel columns, eluted with ethyl acetate-hexane (9:1 parts by volume) gave 4-(2-bromoethyl)-1-piperidinecarboxaldehyde (12.06 g, 66% yield).

reactant | 4-(2-hydroxyethyl)piperidine hydrochloride | 0.12 M, 20 g | Cl.OCCC1CCNCC1
reactant | phosphorus tribromide | 7 ml | P(Br)(Br)Br | Br3P
product | 4(2-bromoethyl)piperidine hydrogen bromide | 20.76 g, 77% yield | Br.BrCCC1CCNCC1 | InChI=1S/C7H14BrN.BrH/c8-4-1-7-2-5-9-6-3-7;/h7,9H,1-6H2;1H
